datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.C[C:11]([H:10])(/[CH:12]=[CH:13]/C)/[CH:72]=[CH:73]/C>>C1CC[N:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.C[C:11](=[CH:12][CH+:13]C)/[CH:72]=[CH:73]/C 10,11=10,20;12,13=11,12;20,21=21"
"CC(C)(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C)[C:24](=[O:25])[C:33](C)=[CH:32]2)[CH:46]=[CH:45]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C:11](C(C)(C)C)=[O+:12][Si:63](C)(C)C)[C:21]2=[CH:22][C:23](C)=[C:24]([O-:25])[C:33](C)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C/[CH:63]=[CH:62]/[CH:11]=[CH2:10].O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C/[CH:63]=[CH:62]/[CH+:11][CH2:10][CH:20]([CH:21]=[CH:22][N:23]1C2=C(C=CC=C2)CC1C(=O)[O-])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH+:20][C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.COC1=CC=C(C[C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1>>COC1=CC=C(C[C:10]2([CH:20]([C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[C:41]3=[CH:42][CH:43]=[C:44](OC4=CC=CC=C4)[CH:45]=[CH:46]3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1 10=20
"C1=CC=C([C@@H]2CC[N:12]3C4=C(C=CC=C4)[S:62][C:11]3=[N:10]2)C=C1.C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1>>C1=CC=C([C@@H]2CC[N+:12]3=[C:11]([N:10]2[CH:20]([C:31]2=[CH:36][C:35]4=[C:34]5N(CCC[C:33]5=[CH:32]2)CCC4)[CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)[S:62]C2=C3C=CC=C2)C=C1 10,11=10,20;12=11,12"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1.FC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:14]1[C:13]1=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[CH:11]=[CH:12][C:13](=[N+:14]3CCCC3C(F)(C3=CC=CC=C3)C3=CC=CC=C3)[CH:62]=[CH:61]2)[O:21]C)[CH:35]=[CH:36]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CC1=CC=[C:10]([CH:20]([C:31]2=[CH:36][C:35]3=[C:34]4N(CCC[C:33]4=[CH:32]2)CCC3)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)S1 10,11=10,20;12=11,12"
"F[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.N#CC1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1>>N#CC1=CC=C([CH:10]([C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)C=C1 10,11=10,20;12=11,12"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.CC[O:62]/[C:11](=[CH:10]/[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])[O-:12]>>CC[O:62][C:11]([CH:10]([CH:20]([N-:21][S:32](C1=CC=C(C)C=C1)(=[O:33])=[O:34])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:12] 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([S:10]([O-:61])=[O:62])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=CC=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([S+:10](C2=CC=CC=C2)([O-:61])=[O:62])[C:21](C[N+]2=CC=CC=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"CO[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1.FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].CO[C:64]1=[CH:63][CH:62]=[C:61]([S:10][S:20]C(F)F)[CH:72]=[CH:73]1 10=20;20,21=21,22;22,23=23"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC1=CC(C)=C([N:62]2[P:11]([H:10])[N:72](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:63]2)C(C)=C1>>C1CC[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC1=CC(C)=C([N:62]2[P+:11][N:72](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:63]2)C(C)=C1 10,11=10,20;20,21=21,22;22,23=23"
"CCCC[Si:11](CCCC)(CCCC)[H:10].C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1>>CCCC[Si+:11](CCCC)CCCC.C[O:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1 10,11=10,20;20,21=21"
